US05491238
Preparation of N-(2(R)-hydroxy-1(S)-indanyl)-trans-3-(4-pyridyl) acrylamide
To a suspension of trans-3-(4-pyridyl)acrylic acid (10.0 g, 0.067 mol) in 500 mL of THF was added triethylamine (10.29 mL, 0.0738 mol) and the solution was cooled to 0° C. Trimethylacetyl chloride (8.68 mL, 0.0704 mol) was added and the reaction stirred for 0.5 h. 2(R)-hydroxy-1(S)-indane (10.0 g, 0.067 mol) dissolved in 260 mL of THF was added via cannula. After 2 h the reaction was warmed to RT and stirred an additional 15 h. The solvent was removed in vacuo and the resulting solid was triturated with cold ethyl acetate (150 mL) and filtered. This was dried overnight under vacuum (0.5 mm of Hg) to provide 18.5 g of a white solid; mp 205°-207° C.

reactant | trans-3-(4-pyridyl)acrylic acid | 0.067 mol, 10.0 g | N1=CC=C(C=C1)/C=C/C(=O)O | C8H7NO2
reactant | triethylamine | 0.0738 mol, 10.29 mL | C(C)N(CC)CC | C6H15N
reactant | Trimethylacetyl chloride | 0.0704 mol, 8.68 mL | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | THF | 500 mL | C1CCOC1 | C4H8O
reactant | THF | 260 mL | C1CCOC1 | C4H8O
product | N-(2(R)-hydroxy-1(S)-indanyl)-trans-3-(4-pyridyl) acrylamide | 18.5 g | O[C@H]1[C@H](C2=CC=CC=C2C1)NC(\C=C\C1=CC=NC=C1)=O | C17H16N2O2
